US09375000B2
1-[4-(Azidomethyl)-3-bromophenyl]-3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)-pyrrolidine (0.634 g) was dissolved in tetrahydrofuran (10 ml), to the solution was added a 1 M toluene solution (1.37 ml) of trimethylphosphine, and stirred for 10 minutes. To the reaction solution, water (0.09 ml) was added and stirred overnight at room temperature. The volatile compound was distilled off under reduced pressure to obtain almost pure 1-{2-bromo-4-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]phenyl}methanamine (0.520 g).

reactant | 1-[4-(Azidomethyl)-3-bromophenyl]-3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)-pyrrolidine | 0.634 g | N(=[N+]=[N-])CC1=C(C=C(C=C1)N1CC(CC1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)Br | C18H13BrCl3F3N4
reactant | toluene | 1 M, 1.37 ml | C1(=CC=CC=C1)C | C7H8
reactant | trimethylphosphine | CP(C)C | C3H9P
reactant | water | 0.09 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-{2-bromo-4-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]phenyl}methanamine | 0.520 g | BrC1=C(C=CC(=C1)N1CC(CC1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)CN | C18H15BrCl3F3N2
